US08859574B2
To the solution of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (100.0 mg, 0.24 mmol) in 4 mL of DCM was added 2-chloroacetylchloride (23.0 uL, 0.29 mmol) and triethylamine (67.0 uL, 0.48 mmol) sequentially. The reaction was stirred at room temperature for 1 h then washed by brine. The organic extract was dried over Na2SO4, followed by concentration in vacuo to afford a crude product. The crude product was mixed with 1-methylpiperazine (116.0 mg, 1.16 mmol) in 3 mL of DMF and the reaction was stirred overnight at room temperature. The reaction mixture was purified by preparative HPLC to afford 1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-2-(4-methylpiperazin-1-yl)ethanone. ESMS m/z 556.3 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.24 mmol, 100.0 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 2-chloroacetylchloride | 0.29 mmol, 23.0 uL | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.48 mmol, 67.0 uL | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 1.16 mmol, 116.0 mg | CN1CCNCC1 | C5H12N2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-2-(4-methylpiperazin-1-yl)ethanone | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)C(CN1CCN(CC1)C)=O)C)NC1=NNC(=C1)C | C27H35ClFN9O
